### PR TITLE
[Merged by Bors] - feat: port NumberTheory.Bertrand

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mo271** [comment]
TODO:

- [ ] fix time-out in `real_main_inequality`
- [ ] decide if we want to make the `run_tac` work or keep the workaround for now

**Comment by AntoineChambert-Loir** [comment]
There were one-line proofs that Lean 4 couldn't compile, I split them into smaller chunks, and now it works. The two inequalities (0 le f 18 and f 512 le 0) might deserve further simplifications.

File: Mathlib/NumberTheory/Bertrand.lean [hunk 1]
```diff
@@ -70,25 +70,59 @@ theorem real_main_inequality {x : ℝ} (n_large : (512 : ℝ) ≤ x) :
     mul_div 2 x, mul_div_left_comm, ← mul_one_sub, (by norm_num1 : (1 : ℝ) - 2 / 3 = 1 / 3),
     mul_one_div, ← log_nonpos_iff (hf' x h5), ← hf x h5]
   have h : ConcaveOn ℝ (Set.Ioi 0.5) f := by
-    refine'
```
Comment (semorrison) [inline Mathlib/NumberTheory/Bertrand.lean]: I think we need a porting note here noting that this proof was essentially rewritten (because it was too slow?)

**Comment by semorrison** [comment]
@mo271, I've restored the use of `run_tac`. Modulo needing a porting note on the rewritten proof, this is ready to go.

bors d+
